US05969146
13.1. Methyl 3-amino-6-methoxybenzo[b]thiophene-2-carboxylate
A solution of 20.3 g (0.363 mol) of potassium hydroxide in 100 ml of water is added to a mixture of 36.3 g (0.204 mol) of 3-nitro-4-cyanoanisole and 26 g (0.245 mol) of methyl thioglycolate in 400 ml of N,N-d-methylformamide, the temperature being maintained at 0° C. The mixture is left stirring at 0° C. for 20 min and is then poured into a mixture of water and ice. The precipitate is then filtered off, rinsed with water and dried. The product is dissolved in a mixture of dichloromethane and tetrahydrofuran, the organic phase is then dried over sodium sulphate and concentrated under reduced pressure and the residue is triturated in dichloromethane. 26.2 g of product are thus obtained in the form of a light-beige powder.

reactant | potassium hydroxide | 0.363 mol, 20.3 g | [OH-].[K+]
reactant | 3-nitro-4-cyanoanisole | 0.204 mol, 36.3 g | [N+](=O)([O-])C=1C=C(C=CC1C#N)OC | C8H6N2O3
reactant | methyl thioglycolate | 0.245 mol, 26 g | C(CS)(=O)OC | C3H6O2S
solvent | water | 100 ml | O | H2O
product | Methyl 3-amino-6-methoxybenzo[b]thiophene-2-carboxylate | 26.2 g | NC=1C2=C(SC1C(=O)OC)C=C(C=C2)OC | C11H11NO3S
